US08980925B2
1-tetradecyloxy-2,5-dimethylbenzene
1-bromotetradecane (44.4 mL, 0.149 mol), 2,5-dimethylphenol (20.0 g, 0.164 mol) and K2CO3 (82.4 g, 0.596 mol) were combined in a round bottom flask in acetonitrile (200 mL). The flask was equipped with a stir-bar, and a water-cooled condenser and protected under a nitrogen atmosphere. The mixture was heated at reflux for overnight. Synthetic progress was monitored by the disappearance of the signal (triplet) from the C1 hydrogens on the alkyl bromide (˜3.5 ppm) in 1H NMR. Upon completion, the reaction was removed from heat and excess K2CO3 was removed by gravity filtration (rinsed with CH2Cl2). The crude product was concentrated in vacuo and the resulting material was dissolved in CH2Cl2, washed with 1 M NaOH (2×, to remove unreacted 2,5-dimethylphenol or p-cresol), dH2O (2×) and brine (1×), dried over Na2SO4, gravity filtered, and concentrated in vacuo to remove the solvent. The material was of sufficient purity (by 1H and 13C NMR) to be used in the subsequent reactions. Yielded 41.0 g (86%) of an off-white solid, mp=36.9-37.9° C. 1H NMR (CDCl3, 400 MHz) δ: 7.01 (d, 3J=7.4 Hz, 1H, Ar—H); 6.66 (d, 3J=7.6 Hz, 1H, Ar—H); 6.65 (s, 1H, Ar—H); 3.95 (t, 3J=6.5 Hz, 2H, OCH2); 2.33 (s, 3H); 2.20 (s, 3H); 1.80 (m, 2H, OCH2CH2); 1.49 (m, 2H, OCH2CH2CH2); 1.42-1.26 (m, 20H); 0.90 (t, 3J=6.8 Hz, 3H, CH2CH3). 13C NMR (CDCl3, 100 MHz) δ: 157.15, 136.40, 130.25, 123.65, 120.53, 112.01, 67.88, 31.93, 29.70, 29.68, 29,66, 29.62, 29.42, 29.40, 29.37, 26.16, 22.70, 21.40, 15.78, 14.11. HRMS (DART): [M+H]+=319.29460 (calcd for C22H39O 319.29954).

reactant | 1-bromotetradecane | 0.149 mol, 44.4 mL | BrCCCCCCCCCCCCCC | C14H29Br
reactant | 2,5-dimethylphenol | 0.164 mol, 20.0 g | CC1=C(C=C(C=C1)C)O | C8H10O
reactant | K2CO3 | 0.596 mol, 82.4 g | C(=O)([O-])[O-].[K+].[K+]
reactant | water | O | H2O
solvent | acetonitrile | 200 mL | C(C)#N | C2H3N
product | 1-tetradecyloxy-2,5-dimethylbenzene | 41.0 g, 86% | C(CCCCCCCCCCCCC)OC1=C(C=CC(=C1)C)C | C22H38O
